US05401490
1-(2,3,5-Tri-O-benzoyl-β-D-arabinofuranosyl)-2-nitroimidazole
The coupling procedure of Sakaguchi (17) (12) was modified to give a higher yield and selective formation of the β-anomer. 2-Nitroimidazole (118 mg; 1.05 mmol) was added to a stirred solution of 1-bromo-2,3,5-tri-O-benzoyl-α-D-arabinofuranose (500 mg; 0.95 mmol) and mercuric cyanide (600 mg; 2.04 mmol) in dry acetonitrile (50 mL). The mixture was stirred for 6 hours at room temperature, after which the solvent was removed under vacuum. The residue was dissolved in dichloromethane (200 mL) and filtered. The filtrate was washed successively with saturated aqueous sodium hydrogen carbonate solution, 30% aqueous potassium iodide, and water, then dried over anhydrous magnesium sulfate. The solvent was evaporated under vacuum and the residue applied to a silica gel column and eluted with ethyl acetate:toluene=90:10 (v/v). The coupled product was recovered in 69% chemical yield (367 mg).

reactant | 2-Nitroimidazole | 1.05 mmol, 118 mg | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 1-bromo-2,3,5-tri-O-benzoyl-α-D-arabinofuranose | 0.95 mmol, 500 mg | Br[C@@]1(O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C26H21BrO8
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-(2,3,5-Tri-O-benzoyl-β-D-arabinofuranosyl)-2-nitroimidazole | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=NC=C1)[N+](=O)[O-] | C29H23N3O9
